US03996366
A mixture of 387 g. bromomethyl 1-methylcyclohexyl ketone and 1000 ml. formamide was heated with stirring. A stream of ammonia was passed through the reaction mixture over a period of one hour, the mixture being maintained at a temperature of 140° - 160° C. After the passage of ammonia had been completed the reaction mixture was heated to 180° - 190° C. The reaction mixture was maintained at this temperature for a period of two hours. Excess of formamide was evaporated under reduced pressure and the residue diluted with a little warm water and made alkaline with potassium carbonate. The resulting mixture was extracted with ether. After separation the ethereal extract was washed with water, dried over sodium sulphate, evaporated and distilled to give the novel intermediate 4-(1-methylcyclohexyl)imidazole, b.p. 146° - 148° C./0.2 mm. Hg. The distillate crystallized from petroleum ether (b.p. 60° - 80° C.) to give the product, m.p. 73° - 75° C.

reactant | bromomethyl 1-methylcyclohexyl ketone | CC1(CCCCC1)C(=O)CBr | C9H15BrO
reactant | formamide | C(=O)N | CH3NO
reactant | ammonia | N | H3N
product | 4-(1-methylcyclohexyl)imidazole | CC1(CCCCC1)C=1N=CNC1 | C10H16N2
